US07084164B2
N′-(4-Methoxybutyryl)hydrazine carboxylic acd tert-butyl ester (9.30 g) was dissolved in ethyl acetate (50 ml), followed by addition of 4 mol/liter hydrochloric acid/ethyl acetate solution (150 ml), and stirred at ambient temperature for 2 hours. After the reaction solution was concentrated under reduced pressure, the resulting residue was washed with n-hexane, to afford 4-methoxybutyric acid hydrazide hydrochloride salt as pale yellow solid (5.99 g, 89%). The physico-chemical values are as follows.

reactant | N′-(4-Methoxybutyryl)hydrazine | 9.30 g | COCCCC(=O)NN | C5H12N2O2
reactant | hydrochloric acid ethyl acetate | 4 mol/liter, 150 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-methoxybutyric acid hydrazide hydrochloride salt | 5.99 g, 89% | Cl.COCCCC(=O)NN | InChI=1S/C5H12N2O2.ClH/c1-9-4-2-3-5(8)7-6;/h2-4,6H2,1H3,(H,7,8);1H
